US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (10.76 mg, 0.049 mmol), N-ethyl-2,5-difluoro-4-(piperazin-1-yl)benzamide hydrochloride (15 mg, 0.049 mmol), (cyanomethyl)trimethylphosphonium iodide (17.88 mg, 0.074 mmol) and N,N-diisopropylethylamine (0.043 mL, 0.245 mmol) were suspended in propiononitrile (Volume: 0.2 mL) and heated in a closed vial at 90° C. for 2 h. The reaction mixture became a dark brown solution. It was cooled to room temperature, diluted with dichloromethane (2 mL) and methanol (0.3 mL), and purified using flash column chromatography on silica gel (12 g SiO2, dichloromethane-methanol 100:0-90:10). The resulting solid was suspended in ether (1 mL), stirred until a fine suspension resulted, filtered and the solid was recrystallized from MeOH-water (1:7, 4 mL) and dried in vacuum to afford (S)—N-ethyl-2,5-difluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (8.5 mg, 0.018 mmol, 36.8% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.02 (t, J=7.20 Hz, 3H) 1.76-1.97 (m, 3H) 2.11 (m, J=6.44, 4.17 Hz, 1H) 2.36-2.42 (m, 4H) 3.03 (br. s., 4H) 3.12-3.22 (m, 2H) 3.28-3.37 (m, 3H) 3.46-3.59 (m, 1H) 3.86-3.97 (m, 1H) 6.81 (dd, J=12.63, 7.07 Hz, 1H) 6.91 (d, J=1.77 Hz, 1H) 7.30 (dd, J=13.64, 6.82 Hz, 1H) 7.55 (d, J=1.52 Hz, 1H) 7.95-8.04 (m, 1H) 10.38 (s, 1H). [M+H] calc'd for C24H28F2N6O2, 471; found, 471.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.049 mmol, 10.76 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | N-ethyl-2,5-difluoro-4-(piperazin-1-yl)benzamide hydrochloride | 0.049 mmol, 15 mg | Cl.C(C)NC(C1=C(C=C(C(=C1)F)N1CCNCC1)F)=O
reactant | (cyanomethyl)trimethylphosphonium iodide | 0.074 mmol, 17.88 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 0.245 mmol, 0.043 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propiononitrile | 0.2 mL | C(CC)#N | C3H5N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | methanol | 0.3 mL | CO | CH4O
product | (S)—N-ethyl-2,5-difluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.018 mmol, 8.5 mg, 36.8% yield | C(C)NC(C1=C(C=C(C(=C1)F)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)F)=O | C24H28F2N6O2
